US04760136
In 20 ml of absolute methanol was dissolved 520 mg of metallic sodium, and 2.12 g of ethyl cyanoacetate was added thereto with stirring at room temperature, after which 4.0 g of isopropyl iodide was added dropwise over a period of 10 minutes. After completion of the dropwise addition, the resulting mixture was stirred at room temperature for 3 hours, refluxed for 1 hour, subjected to a conventional post-treatment, and then distilled under reduced pressure to obtain 2.1 g of methyl α-isopropylcyanoacetate.

reactant | sodium | 520 mg | [Na] | Na
reactant | ethyl cyanoacetate | 2.12 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | isopropyl iodide | 4.0 g | C(C)(C)I | C3H7I
solvent | methanol | 20 ml | CO | CH4O
product | methyl α-isopropylcyanoacetate | 2.1 g | C(C)(C)C(C(=O)OC)C#N | C7H11NO2
